US08378104B2
Step C: 2-chloro-4-iodo-3-methylfuro[2,3-c]pyridin-7-amine (Title Compound)
2-chloro-3-methylfuro[2,3-c]pyridin-7-amine (1.0 g, 5.5 mmol) in MeCN (30 mL) was treated with N-iodosuccinimide (1.70 g, 7.52 mmol), added portionwise over a 5 min period. The mixture was stirred at RT for overnight. The reaction was quenched with 20% aqueous Na2S2O3 and stirred for 10 min. EtOAc (100 mL) was added and the phases separated. The organic phase was washed with 20% aqueous Na2S2O3, then water and finally with brine. After drying over Na2SO4, the organic extracts were filtered and concentrated in vacuo. The material was purified using flash chromatography (30% EtOAc:DCM) to afford 1.15 g (68%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 8.07 (s, 1H), 4.73 (br s, 2H), 2.33 (s, 3H).

reactant | 2-chloro-3-methylfuro[2,3-c]pyridin-7-amine | 5.5 mmol, 1.0 g | ClC1=C(C=2C(=C(N=CC2)N)O1)C | C8H7ClN2O
reactant | N-iodosuccinimide | 7.52 mmol, 1.70 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | MeCN | 30 mL | CC#N | C2H3N
product | 2-chloro-4-iodo-3-methylfuro[2,3-c]pyridin-7-amine | 1.15 g, 68% | ClC1=C(C=2C(=C(N=CC2I)N)O1)C | C8H6ClIN2O
